US05905074
A solution of 2.12 g (8.9 mMol) of (4aS,5S,8aR)-5-tert-Butoxy4a-methyl-octahydro-naphtalen-1-one in 44.5 ml tetrahydrofuran was cooled to -78° C. and 9.8 ml (9.8 mMol) of a one molar solution of L-selectride in tetrahydrofuran was added dropwise under stirring and argon atmosphere. The reaction mixture was kept at this temperature for an additional hour, warmed to room temperature and kept overnight. The temperature was then lowered to -15° C. and 0.17 ml of H2O were added dropwise. This was followed by dropwise addition of 7.60 ml 3N NaOH and 6.36 ml of H2O2. The reaction temperature is kept between -10 to -15° C. The reaction mixture is then poured into water and extracted three times with ethylacetate. The combined organic extracts are washed with brine and evaporated in vacuo to dryness. The residue is chromatographed over 120 g of silicagel with hexane/ethylacetate 4/1 to yield 1.03 g (48%) of pure (1S,4aS,5S,8aR)-5-tert-Butoxy-4a-methyl-decahydronaphtalen-1-ol as an amorphous product.

reactant | (4aS,5S,8aR)-5-tert-Butoxy4a-methyl-octahydro-naphtalen-1-one | 8.9 mMol, 2.12 g | C(C)(C)(C)O[C@@H]1[C@]2(CCCC([C@@H]2CCC1)=O)C | C15H26O2
reactant | L-selectride | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
reactant | NaOH | 3N, 7.60 ml | [OH-].[Na+]
reactant | H2O2 | 6.36 ml | OO | H2O2
solvent | tetrahydrofuran | 44.5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | H2O | 0.17 ml | O | H2O
product | (1S,4aS,5S,8aR)-5-tert-Butoxy-4a-methyl-decahydronaphtalen-1-ol | 1.03 g, 48% | C(C)(C)(C)O[C@@H]1[C@]2(CCC[C@@H]([C@@H]2CCC1)O)C | C15H28O2
